US07208524B2
To a solution of 148 mg of ethyl[2-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-5-isopropylphenoxy]acetate in 3 mL of N,N-dimethylformamide was added 41 mg of lithium chloride, and the mixture was stirred at 140° C. for 3 hours. After being cooled to room temperature, the reaction mixture was concentrated under reduced pressure. To the residue was added aqueous 10% citric acid solution to adjust pH4, and the mixture was extracted with 100 mL of ethyl acetate. The organic layer was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 139 mg of ethyl[2-[2-(5-cyano-2-hydroxybenzenesulfonylamino)-ethyl]-5-isopropylphenoxy]acetate.

reactant | ethyl[2-[2-(5-cyano-2-methoxybenzenesulfonylamino)ethyl]-5-isopropylphenoxy]acetate | 148 mg | C(C)OC(COC1=C(C=CC(=C1)C(C)C)CCNS(=O)(=O)C1=C(C=CC(=C1)C#N)OC)=O | C23H28N2O6S
reactant | lithium chloride | 41 mg | [Cl-].[Li+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | ethyl[2-[2-(5-cyano-2-hydroxybenzenesulfonylamino)-ethyl]-5-isopropylphenoxy]acetate | 139 mg | C(C)OC(COC1=C(C=CC(=C1)C(C)C)CCNS(=O)(=O)C1=C(C=CC(=C1)C#N)O)=O | C22H26N2O6S
